US07015213B1
1-benzyl-6-(2-chlorophenyl)-7,8,9,10-tetrahydro-4H-pyrido[4′,3′;4,5]thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine
A mixture containing ethyl ester of 1-benzyl-6-(2-chlorophenyl)-7,10-dihydro-4H-pyrido[4′,3′;4,5]thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-9(8H)-carboxylic acid (3.6 g, 0.0071 mol) and potassium hydroxide (4.4 g, 0.078 mol) is heated under reflux in ethanol for 6 hours then left under agitation at ambient temperature for 48 hours. The solid is filtered on frit, washed with a minimum quantity of ethanol. After adding water, extraction is carried out with dichloromethane followed by drying over magnesium sulphate. The solvent is evaporated off and the product is purified by crystallization from an ethyl acetate/isopropanol 50/50 mixture, followed by leaving in a refrigerator for 48 hours then filtering on frit while washing with a solvent mixture: ethyl acetate-isopropanol (50-50). Washing is finally carried out with isopentene followed by drying under vacuum. 2.46 g (77%) of the desired product is obtained in the form of a beige coloured solid. Melting point: 191–192° C.

reactant | 1-benzyl-6-(2-chlorophenyl)-7,10-dihydro-4H-pyrido[4′,3′;4,5]thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine-9(8H)-carboxylic acid | 0.0071 mol, 3.6 g | C(C1=CC=CC=C1)C1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C2=C(S1)CN(CC2)C(=O)O | C25H20ClN5O2S
reactant | potassium hydroxide | 0.078 mol, 4.4 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 1-benzyl-6-(2-chlorophenyl)-7,8,9,10-tetrahydro-4H-pyrido[4′,3′;4,5]thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepine | 2.46 g, 77% | C(C1=CC=CC=C1)C1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C2=C(S1)CNCC2 | C24H20ClN5S
